US04436748
To a solution of 4.4 g of 2,3-dichloro-4-methoxythiophenol in 30 ml of anhydrous dimethylformamide is added 1.2 g of sodium hydride in small portions. The mixture is stirred at room temperature until gas evolution subsides (20-30 minutes) and 3.34 g of α-bromobutyric acid in 10 ml of dimethylformamide is added. After stirring at room temperature for 1 hour, the mixture is diluted with water and acidified with conc. hydrochloric acid. The white crystalline solid is filtered, air dried and recrystallized from acetone-hexane to give 5.32 g of α-(2,3-dichloro-4-methoxyphenylthio)butyric acid as granular crystals, mp 143°-145°.

reactant | 2,3-dichloro-4-methoxythiophenol | 4.4 g | ClC1=C(C=CC(=C1Cl)OC)S | C7H6Cl2OS
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | α-bromobutyric acid | 3.34 g | BrC(C(=O)O)CC | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | α-(2,3-dichloro-4-methoxyphenylthio)butyric acid | 5.32 g | ClC1=C(C=CC(=C1Cl)OC)SC(C(=O)O)CC | C11H12Cl2O3S
